US05696299
Interesterification was carried out in the same manner as in Example 12, except for replacing dimethyl octadecadicarboxylate with 150 g of dimethyl sebacate at 90° C. for 30 hours. The water content of the reaction system was 0.07% by weight, and 87% of the lipase particles had a particle size of 25 to 60 μm. After completion of the reaction, gas chromatography of the reaction mixture revealed that 42 mol % of (R,S)-1-phenylethanol had been converted to its sebacic acid ester. The reaction mixture was treated in the same manner as in Example 12 to remove lipase, and the filtrate was subjected to simple distillation at 90° C. and 3 mmHg. However, it was impossible to isolate (S)-(-)-1-phenylethanol due to co-distillation of other components, such as esters.

reactant | dimethyl sebacate | 150 g | C(CCCCCCCCC(=O)OC)(=O)OC | C12H22O4
reactant | water | O | H2O
product | (S)-(-)-1-phenylethanol | C1(=CC=CC=C1)[C@H](C)O | C8H10O
